US08183289B2
Ethyl 2-(6-(4-(4-chlorophenethylcarbamoyl)phenoxy)-4′-(methylsulfonyl)biphenyl-3-yl)acetate (20 mg, 0.0338 mmol) was diluted with dioxane (1 mL) followed by the addition of NaOH (0.0676 ml, 0.338 mmol) and 300 μL of water. After stirring for 3 hours, the reaction was diluted with ethyl acetate and 2N HCl. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated to yield 2-(6-(4-(4-chlorophenethylcarbamoyl)phenoxy)-4′-(methylsulfonyl)biphenyl-3-yl)acetic acid (10 mg, 52.5% yield). (400 MHz, CD3Cl3, CD3OD) 7.90 (d, 2H), 7.70 (d, 2H), 7.60 (d, 2H), 7.40 (s, 1H), 7.35 (d, 1H), 7.25 (d, 2H), 7.15 (d, 2H), 7.05 (d, 1H), 6.85 (d, 2H), 6.55 (t, 1H), 3.63 (m, 4H), 3.05 (s, 3H), 2.90 (t, 2H).

reactant | Ethyl 2-(6-(4-(4-chlorophenethylcarbamoyl)phenoxy)-4′-(methylsulfonyl)biphenyl-3-yl)acetate | 0.0338 mmol, 20 mg | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=CC=C(C=C3C3=CC=C(C=C3)S(=O)(=O)C)CC(=O)OCC)C=C2)C=C1 | C32H30ClNO6S
reactant | NaOH | 0.338 mmol, 0.0676 ml | [OH-].[Na+]
reactant | water | 300 μL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-(6-(4-(4-chlorophenethylcarbamoyl)phenoxy)-4′-(methylsulfonyl)biphenyl-3-yl)acetic acid | 10 mg, 52.5% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=CC=C(C=C3C3=CC=C(C=C3)S(=O)(=O)C)CC(=O)O)C=C2)C=C1 | C30H26ClNO6S
